US05488115
A solution of 4.30 g (0.015 mmol) of α(S)-benzyloxy-1,4-dioxaspiro[4,5]decane-2(R)-acetaldehyde in 50 ml of anhydrous diethyl ether was cooled to -8° C. and 15 ml of a 2M solution of phenylmagnesium chloride in tetrahydrofuran were added dropwise over a period of 1 hour. The mixture was stirred at -5° C. for 2 hours, then allowed to warm to room temperature and poured into 50 ml of 10% ammonium chloride solution. The mixture was extracted twice with 100 ml of ethyl acetate each time. The ethyl acetate extracts were dried over anhydrous magnesium sulphate and evaporated. The residue was subjected to flash chromatography on silica gel using 5% methanol in dichloromethane for the elution. There were obtained 2.47 g of β(R)-benzyloxy-α(RS)-phenyl-1,4-dioxaspiro[4,5]decane-2(R)-ethanol in the form of a colourless gum; MS (C.I.): m/e 369 [M+H]+.

reactant | α(S)-benzyloxy-1,4-dioxaspiro[4,5]decane-2(R)-acetaldehyde | 0.015 mmol, 4.30 g | C(C1=CC=CC=C1)O[C@H](C=O)[C@@H]1OC2(OC1)CCCCC2 | C17H22O4
reactant | phenylmagnesium chloride | C1(=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | β(R)-benzyloxy-α(RS)-phenyl-1,4-dioxaspiro[4,5]decane-2(R)-ethanol | 2.47 g | C(C1=CC=CC=C1)O[C@H](C(O)C1=CC=CC=C1)[C@@H]1OC2(OC1)CCCCC2 | C23H28O4
